US03974158
A mixture of 2-(N-acetyl-2-ethoxyanilino)methylmorpholine hydrochloride (2 g.) and concentrated hydrochloric acid is heated under reflux for 24 hours. The solution is cooled, diluted with ice (25 g.), basified with sodium hydroxide solution and extracted with ether (2 × 100 ml.). The ether extract is dried (Na2SO4) and treated with ethereal HCl to give 2-(2-ethoxyanilino)methylmorpholine hydrochloride, m.p. 180°-181°C. on recrystallisation from ethanol.

reactant | 2-(N-acetyl-2-ethoxyanilino)methylmorpholine hydrochloride | 2 g | Cl.C(C)(=O)N(C1=C(C=CC=C1)OCC)CC1CNCCO1
reactant | hydrochloric acid | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
product | 2-(2-ethoxyanilino)methylmorpholine hydrochloride | Cl.C(C)OC1=C(NCC2CNCCO2)C=CC=C1 | InChI=1S/C13H20N2O2.ClH/c1-2-16-13-6-4-3-5-12(13)15-10-11-9-14-7-8-17-11;/h3-6,11,14-15H,2,7-10H2,1H3;1H
